US04598087
Preparation of trans-2-(4-chlorophenoxy)-N-methyl-N-[2(1-pyrrolidinyl)cyclohexyl]acetamid
Trans-N-Methyl-2-(1-pyrrolidinyl]cyclohexanamine (0.182 g) was dissolved in methylene chloride (10 ml) and stirred at room temperature. The acid chloride of 4-chlorophenoxyacetic acid (0.205 g) dissolved in methylene chloride (10 ml) was added and let stand for 12 hours. Ether was added to rapidly stirred solution until no more precipitate appeared. After further rapid stirring for one hour, the precipitate was filtered and dried in a vacuum oven at 90° C. for one hour, and stored in a predried bottle. The product was in the form of white needles (360 mg) mp 184°-186° C.

reactant | Trans-N-Methyl-2-(1-pyrrolidinyl]cyclohexanamine | 0.182 g | CN[C@H]1[C@@H](CCCC1)N1CCCC1 | C11H22N2
reactant | 4-chlorophenoxyacetic acid | 0.205 g | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
reactant | Ether | CCOCC | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | trans-2-(4-chlorophenoxy)-N-methyl-N-[2(1-pyrrolidinyl)cyclohexyl]acetamid | ClC1=CC=C(OCC(=O)N([C@H]2[C@@H](CCCC2)N2CCCC2)C)C=C1 | C19H27ClN2O2
